US07915411B2
4-(4-Hydroxy-phenoxy)-3-nitro-benzonitrile
A solution of hydroquinone (1.21 g, 0.011 mol) and potassium hydroxide (0.894 g, 0.0159 mol) in anhydrous dimethylsulfoxide (8 mL) was heated at 90° C. for 30 minutes under a nitrogen atmosphere. A solution of 4-chloro-3-nitrobenzonitrile (1.806 g, 0.0099 mol) in dimethylsulfoxide (8 mL) was added dropwise over a 30 minute period at 90°, then let the reaction stir for 1 hour at the same temperature. The reaction was then cooled in an ice bath and poured into 30 mL of ice-water. The mixture was acidified with concentrated hydrochloric acid to pH 3 and extracted with ethyl ether (3×100 mL). The combined ethereal extracts were washed with water (3×150 mL) and brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated by rotary evaporation under vacuum. Purification by silica gel chromatography using 4% ethyl acetate/methylene chloride as eluent provided the product as an orange solid (0.984 g, 39%).

reactant | hydroquinone | 0.011 mol, 1.21 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium hydroxide | 0.0159 mol, 0.894 g | [OH-].[K+]
reactant | 4-chloro-3-nitrobenzonitrile | 0.0099 mol, 1.806 g | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
product | 4-(4-Hydroxy-phenoxy)-3-nitro-benzonitrile | 0.984 g, 39% | OC1=CC=C(OC2=C(C=C(C#N)C=C2)[N+](=O)[O-])C=C1 | C13H8N2O4
